US07378431B2
1-(5-Amino-1H-indole-2-yl)-1-(4-benzylpiperidine-1-yl)methanone (45 14244)
A mixture of 0.5 g (1.38 mmol) of 1-(4-benzylpiperidine-1-yl)-1-(5-nitro-1H-indole-2-yl)methanone, 20 ml of methanol and 0.1 g of 10% Pd/C catalyst is hydrogenated for 5 h. The catalyst is filtered off, washed with methanol and the filtrate is concentrated. The residue is treated with diethylether and the precipitated crystals are filtered off to yield 0.27 g (59%) of the title compound. Mp.: 175-180° C. (diethylether).

reactant | 1-(4-benzylpiperidine-1-yl)-1-(5-nitro-1H-indole-2-yl)methanone | 1.38 mmol, 0.5 g | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C21H21N3O3
catalyst | Pd/C | 0.1 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 1-(5-Amino-1H-indole-2-yl)-1-(4-benzylpiperidine-1-yl)methanone | 0.27 g, 59% | NC=1C=C2C=C(NC2=CC1)C(=O)N1CCC(CC1)CC1=CC=CC=C1 | C21H23N3O
